US07465731B2
To a mixture of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate dihydrochloride (500 mg), (2-bromoethoxy)benzene (347 mg), and DMF (5 mL) was added Na2CO3 (488 mg). After stirring for 3 hours at 100° C., the reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with H2O, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2-phenoxyethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (516 mg).

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate dihydrochloride | 500 mg | Cl.Cl.C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1
reactant | (2-bromoethoxy)benzene | 347 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | Na2CO3 | 488 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2-phenoxyethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 516 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CCOC1=CC=CC=C1 | C27H35N3O5
